US06248757B1
Phenylmethyl [2-chloro-5-methoxy-4-[5-oxo-4-(1-butyl_pyrrolidin-3-yl)-4,5-dihydro-1,3,4-oxadiazol-2-yl]_phenyl]carbamate
1.5 g (3.37 mmol) of phenylmethyl [2-chloro-4-(5-oxo-4-(pyrrolidin-3-yl)-4,5-dihydro-1,3,4-oxadiazol-2-yl)-5-methoxyphenyl]carbamate dissolved in 26 ml of acetonitrile, and 1.41 ml (10.1 mmol) of triethylamine are placed in a 100 ml three-necked round-bottomed flask. A solution of 0.6 g (4.38 mmol) of 1-bromobutane in 4 ml of acetonitrile is added and the mixture is heated at 60° C. for 15 h.

reactant | phenylmethyl [2-chloro-4-(5-oxo-4-(pyrrolidin-3-yl)-4,5-dihydro-1,3,4-oxadiazol-2-yl)-5-methoxyphenyl]carbamate | 3.37 mmol, 1.5 g | ClC1=C(C=C(C(=C1)C=1OC(N(N1)C1CNCC1)=O)OC)NC(OCC1=CC=CC=C1)=O | C21H21ClN4O5
reactant | triethylamine | 10.1 mmol, 1.41 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromobutane | 4.38 mmol, 0.6 g | BrCCCC | C4H9Br
solvent | acetonitrile | 26 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | Phenylmethyl [2-chloro-5-methoxy-4-[5-oxo-4-(1-butyl_pyrrolidin-3-yl)-4,5-dihydro-1,3,4-oxadiazol-2-yl]_phenyl]carbamate | ClC1=C(C=C(C(=C1)C=1OC(N(N1)C1CN(CC1)CCCC)=O)OC)NC(OCC1=CC=CC=C1)=O | C25H29ClN4O5
